US04209515
4.0 ml of 33% ethanolic dimethylamine solution is added to a mixture of 3.75 g (0.01 mole) of 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxamide and 0.15 g of sodium iodide in 70 ml of methanol, and the whole is refluxed for 4 hours with stirring. The reaction mixture is subsequently concentrated in vacuo. Water and saturated sodium carbonate solution are added until the pH-value has reached 10, and extraction is performed twice with ethyl acetate. The organic phase is washed twice with water and once with saturated sodium chloride solution; it is then dried over magnesium sulphate and filtered. To the filtrate there is added ethereal hydrogen chloride solution until the pH-value has reached 3. The product precipitating in crystalline form is filtered off with suction and washed with ethyl acetate and ether. After drying in vacuum, there is obtained 1-(2-benzoyl-4-chlorophenyl)-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide-hydrochloride, m.p. 250° with decomposition.

reactant | dimethylamine | 4.0 ml | CNC | C2H7N
reactant | 1-(2-benzoyl-4-chlorophenyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxamide | 0.01 mole, 3.75 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CCl)C(=O)N | C17H12Cl2N4O2
reactant | sodium iodide | 0.15 g | [I-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 1-(2-benzoyl-4-chlorophenyl)-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide-hydrochloride | Cl.C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CN(C)C)C(=O)N | InChI=1S/C19H18ClN5O2.ClH/c1-24(2)11-16-22-19(18(21)27)23-25(16)15-9-8-13(20)10-14(15)17(26)12-6-4-3-5-7-12;/h3-10H,11H2,1-2H3,(H2,21,27);1H
